US09353096B2
(2-Hydroxyethyl)-[2-hydroxy-2-(2-isopropyl-pyrimidin-4-yl)-ethyl]-carbamic acid tert-butyl ester (396 mg, 1.22 mmol) was dissolved in methyl-t-butylether (MTBE) (15 ml). Triphenylphosphine (383 mg, 1.46 mmol) was added. To this mixture was added diisopropyl azodicarboxylate (295 mg, 288 μl, 1.46 mmol) dropwise. The solution was stirred at room temperature overnight. A white solid was filtered off, washed with MTBE (2×10 mL). The combined filtrate and washes were concentrated and the resulting residue was purified by Analogix flash column chromatography (40 g silica gel, 0% to 20% ethyl acetate in hexanes gradient) to afford 2-(2-isopropyl-pyrimidin-4-yl)-morpholine-4-carboxylic acid tert-butyl ester (256 mg) as a white solid. (M+H)|=308 m/e. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.35 (d, J=6.82 Hz, 6H) 1.52 (s, 9H) 2.80 (br. s., 1H) 3.06 (d, J=10.61 Hz, 1H) 3.22 (dt, J=13.71, 6.92 Hz, 1H) 3.72 (td, J=11.62, 2.53 Hz, 1H) 3.98 (br. s., 1H) 4.07 (d, J=9.60 Hz, 1H) 4.48 (dd, J=10.48, 2.15 Hz, 2H) 7.31 (d, J=5.05 Hz, 1H) 8.69 (d, J=5.05 Hz, 1H).

reactant | (2-Hydroxyethyl)-[2-hydroxy-2-(2-isopropyl-pyrimidin-4-yl)-ethyl]-carbamic acid tert-butyl ester | 1.22 mmol, 396 mg | C(C)(C)(C)OC(N(CC(C1=NC(=NC=C1)C(C)C)O)CCO)=O | C16H27N3O4
reactant | Triphenylphosphine | 1.46 mmol, 383 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.46 mmol, 288 μl, 295 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | methyl-t-butylether | 15 ml | COC(C)(C)C | C5H12O
product | 2-(2-isopropyl-pyrimidin-4-yl)-morpholine-4-carboxylic acid tert-butyl ester | 256 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=NC(=NC=C1)C(C)C | C16H25N3O3
